US06861418B2
To a suspension of NABH4 (600 mg, 16 mmol) in 15% H2O/MeOH (6 mL) under nitrogen at rt was added dropwise a solution of [3-(2-oxo-2,3-dihydro-1H-indol-4-yl)-phenyl]-acetic acid methyl ester (450 mg, 1.6 mmol) in THF (3 mL). After stirring at rt for overnight, to the reaction was added CaCl2 (300 mg) and stirring was continued for another 5 hours. The reaction was quenched with acetic acid (2 mL), concentrated, diluted with ethyl acetate, washed with 0.5 N HCl (3×15 mL), 10% NaHCO3 (3×15 mL), brine (1×), dried and concentrated. The oily residue was purified to give 384 mg (95%) of 4-[3-(2-hydroxy-ethyl)-phenyl]-1,3-dihydro-indol-2-one.

reactant | [3-(2-oxo-2,3-dihydro-1H-indol-4-yl)-phenyl]-acetic acid methyl ester | 1.6 mmol, 450 mg | COC(CC1=CC(=CC=C1)C1=C2CC(NC2=CC=C1)=O)=O | C17H15NO3
reactant | CaCl2 | 300 mg | [Cl-].[Cl-].[Ca+2]
solvent | H2O MeOH | 6 mL | O.CO
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 4-[3-(2-hydroxy-ethyl)-phenyl]-1,3-dihydro-indol-2-one | 384 mg, 95% | OCCC=1C=C(C=CC1)C1=C2CC(NC2=CC=C1)=O | C16H15NO2
